Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Arm Redness, Arm Swelling 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o man with history of DVT and PEs p/w 
bilat arm swelling and erythema. 

Patient says that about a week / 5 days ago, his noted swelling 
of his left arm. He put some Vaseline on it and felt as though 
it improved a little. Thus, he put more Vaseline on it. Soon 
after, he noticed that the rash "blew up" and spread over his 
torso and onto his right arm. He says the rash is not 
particularly itchy, but then agrees that he seems to be 
scratching himself quite a bit. He states he has been started on 
new medications but is not sure which medications he takes. He 
denies any fevers or chills. He denies any sores in his mouth or 
on his genitals. 

Of note, patient was admitted in ___ for cellulitis of his 
lower extremities. He was transitioned from amlodipine to 
chlorthalidone given lower extremity edema. Patient notes that 
he was sent to rehab and then feels as though he was discharged 
prematurely from rehab. He has had decreased PO intake over the 
past week as he has not been hungry much at all. He thinks he 
has lost about 50 pounds over the past year or so. 

In the ED, initial vitals are T 100.3 64 136/90 20 94% RA. Exam 
showed swelling from the mid humurus to the wrist bilaterally 
with confluent erythema minimal TTP, tense scattered bulla on 
the volar forearm, palmar sparing. Erythema spreads to the torso 
in scattered patches. neg nikolsky's sign. Labs significant for 
WBC 16, cr 3.0. Dermatology consulted, agreed with bullous 
pemphigoid diagnosis with possible superinfection with 
cellulitis. Patient was given vancomycin and clobetasol ointment 
and admitted for further care.

On the floor, patient is very hungry as he has not eaten in a 
day. He notes that he keeps Kosher. He is scratching his torso 
and his head. He thinks that he was discharged from rehab a 
little too soon and says he won't be making that mistake again.

ROS: positive per above, otherwise negative
 
Past Medical History:
H/o DVT and PE
Back pain
H/o cataract surgery
Right radial palsy
H/o prostate adenocarcinoma
H/o adenomatous colonic polyp
Anal fistula repair
Seborrheic dermatitis
H/o transurethral prostatectomy
 
Social History:
___
Family History:
- Adult-onset DM in father
- ___ adenocarcinoma in mother

 
Physical ___ exam:
vitals: 97.7 PO 147/73 68 18 99 RA  
General: frail appearing elderly man sitting up in bed, no acute 
distress, he is nearly constantly scratching his chest or his 
head
HEENT: PERRL, EOMI, oropharynx is clear without any bullous 
lesions, poor dentition with multiple chipped/cracked teeth
CV: r/r/r, no m/r/g
Resp: CTA bilaterally
Abd: soft, nontender, nondistended, normoactive bowel sounds
Ext: wwp, no edema bilaterally
Skin: there is a macular rash throughout the torso extending 
down into the upper part of the legs, the rash is confluent on 
the arms, there are tense bullae scattered on the forearms 
bilaterally, there are no bullae noted on the torso

Discharge exam:
VS: 97.6 162 / 70 54 18 100 RA 
General: elderly male sitting up in bed, no acute
distress, comfortable and mentally sharp
HEENT: PERRL, EOMI, oropharynx is clear without any bullous
lesions, poor dentition with multiple chipped/cracked teeth
CV: r/r/r, no m/r/g
PULM: CTA bilaterally, no w/r/r
GI: soft, nontender, nondistended, normoactive bowel sounds
MSK: wwp, no edema bilaterally, no synovitis
Skin: there is a macular rash throughout the torso extending 
down
into the upper part of the legs, the rash is confluent on the
arms with overlying erythema slightly improved from prior, the 
majority of bullae have ruptured and there are no new bullae
Neuro: AAOx3. No facial droop.
Psych: slightly guarded and skeptical
 
Pertinent Results:
Admission labs:
___ 10:09PM BLOOD WBC-16.0*# RBC-4.14* Hgb-11.6* Hct-37.0* 
MCV-89 MCH-28.0 MCHC-31.4* RDW-14.6 RDWSD-46.8* Plt ___
___ 10:09PM BLOOD Neuts-73.7* Lymphs-16.1* Monos-5.0 
Eos-4.6 Baso-0.2 Im ___ AbsNeut-11.79*# AbsLymp-2.58 
AbsMono-0.80 AbsEos-0.73* AbsBaso-0.03
___ 10:32PM BLOOD ___ PTT-23.9* ___
___ 10:09PM BLOOD Glucose-111* UreaN-63* Creat-3.0*# Na-140 
K-5.3* Cl-106 HCO3-18* AnGap-21*
___ 10:09PM BLOOD ALT-14 AST-15 AlkPhos-107 TotBili-0.5
___ 10:09PM BLOOD Lipase-91*
___ 10:09PM BLOOD Albumin-3.7
___ 10:16PM BLOOD Lactate-1.5

Imaging:
___ ___
IMPRESSION:  
No evidence of deep vein thrombosis in the bilateral upper 
extremity veins. 

Discharge labs:
___ 06:41AM BLOOD WBC-14.3* RBC-3.31* Hgb-9.2* Hct-29.9* 
MCV-90 MCH-27.8 MCHC-30.8* RDW-14.4 RDWSD-46.9* Plt ___
___ 04:23AM BLOOD Glucose-117* UreaN-48* Creat-1.5* Na-136 
K-4.9 Cl-103 HCO3-23 AnGap-15
___ 04:23AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.6
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with history of DVT and PEs p/w
bilateral arm swelling and erythema found to have bullous
pemphigoid

# Bullous pemphigoid
Patient presented with progressive rash of the torso, head, and
upper extremities with bullae formation.  Biopsies confirmed 
bullous pemphiboid. Per dermatology, very low suspicion for 
overlying infection
and consistent with bullous pemphigoid alone. Treated with 
vancomycin for one day only (___).
- Monitor for development of infection
- Appreciate dermatology recs:
- Continue clobetasol 0.05% ointment BID to all rash UNDER
OCCLUSION, for 2 more weeks. Avoid face and genitals. 
- Cont doxycline 100 mg PO BID at least until follow-up with 
dermatology, may need to continue for months
- Cont nicotinamide 500 mg PO QID at least until follow-up with 
dermatology, may need to continue for months
- for any pruritus/lesions on face or genitals, use
hydrocortisone
2.5% ointment BID
- liberal Vaseline to all skin
- if needed for pruritus, can use low dose oral antihistamines;
given pt's age, monitor closely and weight risks of
encephalopathy/anticholinergic effects
- Follow up with dermatology in ___ weeks

# Hyperkalemia: Suspect combination of increased potassium
intake, dehydration, decreased clearance and significant K 
intake
caused rise in potassium. Potassium normalized with low 
potassium
diet.  
- Liberalized diet to allow patient to self-select foods and
potassium remained within normal limits

# Acute renal failure on CKD stage III
Creatinine peaked at 3.0 from baseline 1.7-1.8. Likely 
pre-renal,
but maybe have been due to systemic process such as AIN. 
Creatinine returned to baseline of 1.6 upon discharge.
- Recheck chemistry panel in ___ days (___) to ensure 
stability, if creatinine rises, may need to change 
chlorthalidone to an alternative antihypertensive

# HTN: Home chlorthalidone initially held in light of acute 
renal
failure.  Restarted chlorthalidone but remained hypertensive, so 
hydralazine was added.
- restarted on ___, recommend repeat chemistry panel in ___ days 
(___), with close attention to renal function and 
electrolytes

# Sacral decubitus ulcer
- Mepilex and routine pressure ulcer care (patient is 
non-compliant)

TRANSITIONAL ISSUES
- Continue doxycycline, nicotinamide, topical steroids, and 
Vaseline until dermatology follow-up
- Repeat chemistry panel on ___ with attention to creatinine 
and potassium
- Blood pressure control:  ___ need to change chlorthalidone to 
another agent if he develops recurrent acute renal failure.  
Hydralazine started during this hospitalization
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Chlorthalidone 12.5 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID  
2.  Doxycycline Hyclate 100 mg PO Q12H  
3.  HydrALAZINE 20 mg PO Q6H  
4.  Hydrocortisone Oint 2.5% 1 Appl TP BID  
5.  niacinamide 500 mg oral QID 
RX *niacinamide 500 mg 1 tablet(s) by mouth four times a day 
Disp #*30 Tablet Refills:*0 
6.  Sarna Lotion 1 Appl TP TID  
7.  urea 20 % topical BID lower extremities  
8.  Aspirin 81 mg PO DAILY  
9.  Chlorthalidone 12.5 mg PO DAILY  
10. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until you complete your 
course of doxycycline

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bullous pemphigoid
Acute renal failure on CKD stage III
Hyperkalemia
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with a worsening rash called 'bullous 
pemphigoid'. You were seen by the dermatology specialists who 
recommended both oral and topical therapies and you were 
monitored as your rash improved significantly.

You also had an elevated potassium level, which improved with 
medication and decreasing your potassium intake. 
 
Followup Instructions:
___